US06080743
2-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethoxy)-acetic acid
270 mg (0.711 mmol) of 2-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethoxy)-acetic acid tert-butyl ester are dissolved in 6 ml of an approximately 16% hydrogen bromide solution in acetic acid and the solution is stirred at room temperature for 20 hours. The reaction mixture is diluted with diethyl ether and the solid is filtered off, washed with diethyl ether and dried. The title compound is obtained in the form of a solid (m.p.>300° C.).

reactant | 2-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethoxy)-acetic acid tert-butyl ester | 0.711 mmol, 270 mg | C(C)(C)(C)OC(COCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC)=O | C17H21N3O7
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethoxy)-acetic acid | O=C1NC2=CC(=CC(=C2NC1=O)COCC(=O)O)[N+](=O)[O-] | C11H9N3O7
